US06951879B2
In analogy to example 16.1, Methanesulfonic acid 3-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester and Diethanolamine (2×2 equivalents) were converted to yield 2-[{3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-(2-hydroxy-ethyl)-amino]-ethanol as white solid, MS: 387 (MH+, 1Cl).

reactant | Methanesulfonic acid 3-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCOS(=O)(=O)C | C17H12ClNO3S2
reactant | Diethanolamine | 2 equivalents | N(CCO)CCO | C4H11NO2
product | 2-[{3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-(2-hydroxy-ethyl)-amino]-ethanol | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCN(CCO)CCO | C20H19ClN2O2S
